US08431563B2
A 250 ml, round-bottomed flask was charged with lithium aluminum hydride (1.871 g, 49.3 mmol) and THF (75 mL). After cooling to 0° C., 3-(benzyloxymethyl)piperazine-2,5-dione (3.85 g, 16.44 mmol) was slowly added. The mixture was warmed to room temperature and then heated at reflux for 1 h. After this time, the mixture was cooled to 0° C. and the reaction was quenched with sodium sulfate decahydrate (20 g) and stirred vigorously for 1 h. The mixture was filtered, and the filtrate was concentrated to give 2-(benzyloxymethyl)piperazine (2.60 g) as a yellow oil. This material was taken to the next step without purification.

reactant | lithium aluminum hydride | 49.3 mmol, 1.871 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3-(benzyloxymethyl)piperazine-2,5-dione | 16.44 mmol, 3.85 g | C(C1=CC=CC=C1)OCC1C(NCC(N1)=O)=O | C12H14N2O3
solvent | THF | 75 mL | C1CCOC1 | C4H8O
product | 2-(benzyloxymethyl)piperazine | 2.60 g | C(C1=CC=CC=C1)OCC1NCCNC1 | C12H18N2O
